US07375227B2
384B. (S)-3-Methyl-2-[3-(2-methyl-quinolin-4-yl)-ureido]-butyric acid
A suspension of 1,3-bis-(2-methyl-quinolin-4-yl)-urea (342.4 mg, 1 mmol), valin methyl ester hydrochloride (167.6 mg, 1 mmol) and DIPEA (0.34 mL, 2 mmol) in MeOH (10 mL) is heated at 80° C. for 15 h. The solvent is evaporated and the residue is dissolved in 6N aqueous HCl (6 mL). The reaction mixture is heated at 90° C. for 12 h. Evaporation and purification by preparative HPLC provides the title compound.

reactant | 1,3-bis-(2-methyl-quinolin-4-yl)-urea | 1 mmol, 342.4 mg | CC1=NC2=CC=CC=C2C(=C1)NC(=O)NC1=CC(=NC2=CC=CC=C12)C | C21H18N4O
reactant | valin methyl ester hydrochloride | 1 mmol, 167.6 mg | Cl.COC([C@@H](N)C(C)C)=O
reactant | DIPEA | 2 mmol, 0.34 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 10 mL | CO | CH4O
product | (S)-3-Methyl-2-[3-(2-methyl-quinolin-4-yl)-ureido]-butyric acid | CC([C@@H](C(=O)O)NC(=O)NC1=CC(=NC2=CC=CC=C12)C)C | C16H19N3O3
